US07678801B2
116a) 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(phenylmethyl)benzamide
3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (0.15 g, 0.342 mmol) was dissolved in CH2Cl2 (10 mL) and stirred under argon at room temperature. N-Benzylamine (0.11 g, 1.03 mmol) was added followed by EDC (0.082 g, 0.41 mmol) and HOBT (0.055 g, 0.41 mmol). The reaction was stirred overnight. The solvents were pumped off in vacuo, and the residue taken up in EtOAc and washed twice with H2O, once with brine, dried over anhydrous Na2SO4 filtered and evaporated. The residue was flash chromatographed on silica gel (20 g) eluted with 0-1.5% MeOH/CH2Cl2 to give the title compound. mp (dec) 124-130° C. LC-MS m/z 529 (M+H)+, 2.36 min (ret time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.342 mmol, 0.15 g | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C22H15F2N3O3S
reactant | N-Benzylamine | 1.03 mmol, 0.11 g | C(C1=CC=CC=C1)N | C7H9N
reactant | EDC | 0.41 mmol, 0.082 g
reactant | HOBT | 0.41 mmol, 0.055 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(phenylmethyl)benzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2C)SC)=O | C29H22F2N4O2S
